US04931581
Preparation of 3,5-dinitro-2-ethylthiobenzoic acid ethyl ester
33.2 g (0.240 mol) of potassium carbonate are introduced into 100 ml of dimethylformamide and cooled to -5° C. 37.5 g (0.114 mol) of 2-chloro-3,5-dinitrobenzoic acid (75% with 25% water) dissolved in 120 ml of dimethylformamide are then added over a period of 20 minutes during which time the internal temperature is maintained at from -5° to 0° C. 8.9 ml (0.12 mol) of ethyl mercaptan in 20 ml of dimethylformamide are then added dropwise at -8° C. over a period of 20 minutes. The batch is then stirred for one hour at that same temperature and afterwards the temperature is raised to room temperature over a period of 19 hours. 9.0 ml (0.12 mol) of ethyl bromide in 20 ml of dimethylformamide are then added dropwise over a period of 10 minutes and the reaction mixture is subsequently stirred for 24 hours at room temperature and then poured onto 500 ml of ice/water, stirred and filtered. The material obtained by filtering with suction is washed with water and then dried at room temperature in vacuo and in the presence of phosphorus pentoxide.

reactant | potassium carbonate | 0.240 mol, 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3,5-dinitrobenzoic acid | 0.114 mol, 37.5 g | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | ethyl mercaptan | 0.12 mol, 8.9 ml | C(C)S | C2H6S
reactant | ethyl bromide | 0.12 mol, 9.0 ml | C(C)Br | C2H5Br
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,5-dinitro-2-ethylthiobenzoic acid ethyl ester | C(C)OC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])CC)=S | C11H12N2O5S
